* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : DFC_X4                                       *
* Netlisted  : Wed Jan 28 05:38:57 2026                     *
* PVS Version: 24.11-s045 Mon Jan 27 22:18:54 PST 2025      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(nmos1v2hvt) NMOS1V2HVT NDIFF(D) NGATE(G) NDIFF(S) PW1V2(B)
*.DEVTMPLT 1 MP(pmos1v2hvt) PMOS1V2HVT PDIFF(D) PGATE(G) PDIFF(S) NW1V2(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: DFC_X4                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt DFC_X4 CDN CP D Q QN gnd! vdd!
** N=20 EP=7 FDC=42
M0 gnd! CP 12 gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=1.02e-13 AS=9e-14 PD=9.8e-07 PS=9e-07 m=1 $X=375 $Y=390 $dt=0
M1 8 12 gnd! gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=9e-14 AS=1.02e-13 PD=9e-07 PS=9.8e-07 m=1 $X=825 $Y=390 $dt=0
M2 17 12 gnd! gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=6e-14 AS=9e-14 PD=7e-07 PS=9e-07 m=1 $X=1685 $Y=630 $dt=0
M3 10 D 17 gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=1.02e-13 AS=6e-14 PD=9.8e-07 PS=7e-07 m=1 $X=1995 $Y=630 $dt=0
M4 18 8 10 gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=6.3e-14 AS=1.02e-13 PD=7.2e-07 PS=9.8e-07 m=1 $X=2445 $Y=630 $dt=0
M5 16 9 18 gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=2.362e-13 AS=6.3e-14 PD=2.28e-06 PS=7.2e-07 m=1 $X=2765 $Y=630 $dt=0
M6 gnd! CDN 16 gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=1.47e-13 AS=2.362e-13 PD=1.28e-06 PS=2.28e-06 m=1 $X=3785 $Y=630 $dt=0
M7 9 10 gnd! gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=1.47e-13 AS=1.47e-13 PD=1.28e-06 PS=1.28e-06 m=1 $X=4385 $Y=630 $dt=0
M8 7 8 9 gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=1.155e-13 AS=1.47e-13 PD=1.07e-06 PS=1.28e-06 m=1 $X=4985 $Y=630 $dt=0
M9 4 12 7 gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=1.545e-13 AS=1.155e-13 PD=1.33e-06 PS=1.07e-06 m=1 $X=5480 $Y=630 $dt=0
M10 gnd! 6 4 gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=1.47e-13 AS=1.545e-13 PD=1.28e-06 PS=1.33e-06 m=1 $X=6105 $Y=630 $dt=0
M11 19 CDN gnd! gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=5.25e-14 AS=1.47e-13 PD=6.5e-07 PS=1.28e-06 m=1 $X=6705 $Y=630 $dt=0
M12 6 7 19 gnd! nmos1v2hvt L=1.1e-07 W=3e-07 AD=9.75e-14 AS=5.25e-14 PD=9.5e-07 PS=6.5e-07 m=1 $X=6990 $Y=630 $dt=0
M13 Q 6 gnd! gnd! nmos1v2hvt L=1.1e-07 W=6e-07 AD=2.04e-13 AS=1.8e-13 PD=1.28e-06 PS=1.2e-06 m=1 $X=7965 $Y=390 $dt=0
M14 gnd! 6 Q gnd! nmos1v2hvt L=1.1e-07 W=6e-07 AD=2.04e-13 AS=2.04e-13 PD=1.28e-06 PS=1.28e-06 m=1 $X=8415 $Y=390 $dt=0
M15 Q 6 gnd! gnd! nmos1v2hvt L=1.1e-07 W=6e-07 AD=2.04e-13 AS=2.04e-13 PD=1.28e-06 PS=1.28e-06 m=1 $X=8865 $Y=390 $dt=0
M16 gnd! 6 Q gnd! nmos1v2hvt L=1.1e-07 W=6e-07 AD=2.04e-13 AS=2.04e-13 PD=1.28e-06 PS=1.28e-06 m=1 $X=9315 $Y=390 $dt=0
M17 QN 4 gnd! gnd! nmos1v2hvt L=1.1e-07 W=6e-07 AD=2.04e-13 AS=2.04e-13 PD=1.28e-06 PS=1.28e-06 m=1 $X=9765 $Y=390 $dt=0
M18 gnd! 4 QN gnd! nmos1v2hvt L=1.1e-07 W=6e-07 AD=2.04e-13 AS=2.04e-13 PD=1.28e-06 PS=1.28e-06 m=1 $X=10215 $Y=390 $dt=0
M19 QN 4 gnd! gnd! nmos1v2hvt L=1.1e-07 W=6e-07 AD=2.04e-13 AS=2.04e-13 PD=1.28e-06 PS=1.28e-06 m=1 $X=10665 $Y=390 $dt=0
M20 gnd! 4 QN gnd! nmos1v2hvt L=1.1e-07 W=6e-07 AD=1.8e-13 AS=2.04e-13 PD=1.2e-06 PS=1.28e-06 m=1 $X=11115 $Y=390 $dt=0
M21 vdd! CP 12 vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=1.632e-13 AS=1.44e-13 PD=1.16e-06 PS=1.08e-06 m=1 $X=375 $Y=1920 $dt=1
M22 8 12 vdd! vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=1.44e-13 AS=1.632e-13 PD=1.08e-06 PS=1.16e-06 m=1 $X=825 $Y=1920 $dt=1
M23 20 8 vdd! vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=9.6e-14 AS=1.44e-13 PD=8.8e-07 PS=1.08e-06 m=1 $X=1685 $Y=1690 $dt=1
M24 10 D 20 vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=1.632e-13 AS=9.6e-14 PD=1.16e-06 PS=8.8e-07 m=1 $X=1995 $Y=1690 $dt=1
M25 11 12 10 vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=2.4e-13 AS=1.632e-13 PD=1.76e-06 PS=1.16e-06 m=1 $X=2445 $Y=1690 $dt=1
M26 vdd! 9 11 vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=1.884e-13 AS=2.4e-13 PD=1.32e-06 PS=1.76e-06 m=1 $X=2955 $Y=1930 $dt=1
M27 vdd! CDN 11 vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=1.92e-13 AS=1.44e-13 PD=1.28e-06 PS=1.08e-06 m=1 $X=3875 $Y=1690 $dt=1
M28 9 10 vdd! vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=1.944e-13 AS=1.92e-13 PD=1.29e-06 PS=1.28e-06 m=1 $X=4385 $Y=1690 $dt=1
M29 7 12 9 vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=3.096e-13 AS=1.944e-13 PD=1.77e-06 PS=1.29e-06 m=1 $X=4900 $Y=1690 $dt=1
M30 4 8 7 vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=1.632e-13 AS=3.096e-13 PD=1.16e-06 PS=1.77e-06 m=1 $X=5655 $Y=1690 $dt=1
M31 vdd! 6 4 vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=2.885e-13 AS=1.632e-13 PD=1.87e-06 PS=1.16e-06 m=1 $X=6105 $Y=1690 $dt=1
M32 6 CDN vdd! vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=3.287e-13 AS=2.885e-13 PD=2.23e-06 PS=1.87e-06 m=1 $X=6705 $Y=1690 $dt=1
M33 vdd! 7 6 vdd! pmos1v2hvt L=1.1e-07 W=4.8e-07 AD=4.044e-13 AS=3.287e-13 PD=2.48e-06 PS=2.23e-06 m=1 $X=7275 $Y=1930 $dt=1
M34 Q 6 vdd! vdd! pmos1v2hvt L=1.1e-07 W=9e-07 AD=3.06e-13 AS=4.044e-13 PD=1.58e-06 PS=2.06e-06 m=1 $X=7965 $Y=1510 $dt=1
M35 vdd! 6 Q vdd! pmos1v2hvt L=1.1e-07 W=9e-07 AD=3.06e-13 AS=3.06e-13 PD=1.58e-06 PS=1.58e-06 m=1 $X=8415 $Y=1510 $dt=1
M36 Q 6 vdd! vdd! pmos1v2hvt L=1.1e-07 W=9e-07 AD=3.06e-13 AS=3.06e-13 PD=1.58e-06 PS=1.58e-06 m=1 $X=8865 $Y=1510 $dt=1
M37 vdd! 6 Q vdd! pmos1v2hvt L=1.1e-07 W=9e-07 AD=3.06e-13 AS=3.06e-13 PD=1.58e-06 PS=1.58e-06 m=1 $X=9315 $Y=1510 $dt=1
M38 QN 4 vdd! vdd! pmos1v2hvt L=1.1e-07 W=9e-07 AD=3.06e-13 AS=3.06e-13 PD=1.58e-06 PS=1.58e-06 m=1 $X=9765 $Y=1510 $dt=1
M39 vdd! 4 QN vdd! pmos1v2hvt L=1.1e-07 W=9e-07 AD=3.06e-13 AS=3.06e-13 PD=1.58e-06 PS=1.58e-06 m=1 $X=10215 $Y=1510 $dt=1
M40 QN 4 vdd! vdd! pmos1v2hvt L=1.1e-07 W=9e-07 AD=3.06e-13 AS=3.06e-13 PD=1.58e-06 PS=1.58e-06 m=1 $X=10665 $Y=1510 $dt=1
M41 vdd! 4 QN vdd! pmos1v2hvt L=1.1e-07 W=9e-07 AD=2.7e-13 AS=3.06e-13 PD=1.5e-06 PS=1.58e-06 m=1 $X=11115 $Y=1510 $dt=1
.ends DFC_X4
